US05859007
2-(3-Benzo[b]thiophen-3-ylmethyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide
To a stirring solution of 300 mg (0.66 mmol) of 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide, prepared as in Intermediate 4, in 15 mL DMF at 0° C. is added dropwise over 5 min 1.45 mL (0.72 mmol, 1.1 equiv) of a 0.5M solution of KN(TMS)2 in toluene. The resulting solution is stirred 10 min, and then a solution of 132 mg (0.72 mmol, 1.1 equiv) of 3-chloromethylbenzo[b]thiophene (Wolf, G.; Zymalkowski, F. Arch. Pharm. 1976, 279) in 1 mL DMF is added. The resulting solution is stirred 2 h at RT and then quenched with 5 mL of H2O. The reaction mixture is poured into 50 mL of Et2O and extracted with H2O (2×50 mL). The organic layer is separated, dried (MgSO4), and the solvents removed in vacuo. Purification of the material by silica gel MPLC on an Si60 column using hexane/EtOAc 5/2 as eluent followed by lyophilization in acetonitrile/H2O afforded 222 mg of the title compound as a white amorphous solid: 1H NMR (CDCl3, 300 MHz) δ7.79 (m, 2H), 7.44-6.93 (m, 15H), 6.88 (dd, 1H, J=1.5, 8.1), 5.03 (m, 1H), 4.42 (d, 1H, J=16.6), 4.09 (d, 1H, J=16.6), 3.85 (s, 3H), 3.80 (t, 1H, J=6.6), 3.61 (m, 2H), 1.10 (t, 6H, J=6.8); low resolution MS (FAB)m/e 604 (MH+), 439.

reactant | 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 0.66 mmol, 300 mg | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C27H27N3O4
reactant | 3-chloromethylbenzo[b]thiophene | 0.72 mmol, 132 mg, 1.1 equiv | ClCC=1C2=C(SC1)C=CC=C2 | C9H7ClS
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(3-Benzo[b]thiophen-3-ylmethyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 222 mg | S1C2=C(C(=C1)CC1C(N(C3=C(N(C1=O)CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C3)C3=CC=CC=C3)=O)C=CC=C2 | C36H33N3O4S
